US04046773
A solution of 8.61 g. (0.105 mol.) of 2-methylimidazole in 60 ml. of water is added dropwise to the stirred solution of 18.8 g. (0.1 mol.) of 3,4-dichlorophenyl-isocyanate in 120 ml. of toluene at 10° to 12° C. under cooling. The reaction mixture is stirred at room temperature for one hour. The separated product is filtered off, washed and dried. 22.0 g. (81.5%) of 1-(3,4-dichlorophenyl)-carbamoyl-2-methylimidazole are obtained; m.p.: 140° C.

reactant | 2-methylimidazole | 0.105 mol | CC=1NC=CN1 | C4H6N2
reactant | water | O | H2O
reactant | 3,4-dichlorophenyl-isocyanate | 0.1 mol | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(3,4-dichlorophenyl)-carbamoyl-2-methylimidazole | 81.5% | ClC=1C=C(C=CC1Cl)N1C(=NC(=C1)C(N)=O)C | C11H9Cl2N3O
